US07319152B2
To a stirred solution of 1-methyl-2-cyanopyrrole (1.6 g, 15 mmol) and triisopropyl borate (7.0 mL, 30 mmol) in tetrahydrofuran (THF—45 mL) at 0° C. was added lithium diisopropylamide (LDA—2.0 M in heptane/THF/ethylbenzene, 13.3 mL, 26.6 mmol) in a dropwise fashion over 45 minutes. The resulting solution was stirred at 0° C. for 1 hour. To the solution was added 1-(4-bromophenyl)-ethanone (1.0 g, 5 mmol) dissolved in glyme (45 mL), sodium carbonate (1.59 g, 15 mmol) dissolved in water (9 mL), and tetrakis(triphenylphosphine)palladium (0) (0.28 g, 0.25 mmol). The resulting solution was heated to reflux for 1.5 hours. The solution was cooled to room temperature and partitioned between a saturated aqueous ammonium chloride solution (50 mL) and ethyl acetate (80 mL). The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated. The residue was purified on a silica gel column (20% ethyl acetate in hexane) and triturated with ether to give 5-(4-acetylphenyl)-1-methyl-1H-pyrrole-2-carbonitrile as a yellow solid (0.62 g, 55%). MS (ES) m/z 225.1; HRMS: calcd for C14H12N2O+H+, 225.1022; found (ESI, [M+H]+), 225.1039.

reactant | 1-methyl-2-cyanopyrrole | 15 mmol, 1.6 g | CN1C(=CC=C1)C#N | C6H6N2
reactant | triisopropyl borate | 30 mmol, 7.0 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | lithium diisopropylamide | 26.6 mmol, 2.0 M, 13.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(4-bromophenyl)-ethanone | 5 mmol, 1.0 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | sodium carbonate | 15 mmol, 1.59 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | glyme | 45 mL | C(OC)COC | C4H10O2
solvent | water | 9 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.25 mmol, 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-acetylphenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.62 g, 55% | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(N1C)C#N | C14H12N2O
